US07947738B2
(16-d) (±)-(1S,5R)-5-methylbicyclo[3.2.0]hept-3-en-6-one
A mixed solution of 3-hydroxy-2-methylhept-6-enoic acid (5.45 g, 34.5 mmol), potassium acetate (7.0 g, 71.3 mmol), and acetic anhydride (30 mL) was stirred at room temperature for 1.5 hours and then stirred for 3 hours under conditions of heating to reflux. The reaction solution was left overnight, then diluted with ethyl acetate, washed with water, saturated aqueous sodium bicarbonate, and saturated saline, and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the obtained residue was purified by silica gel column chromatography to obtain the compound of interest as a pale yellow oil (810 mg).

reactant | 3-hydroxy-2-methylhept-6-enoic acid | 34.5 mmol, 5.45 g | OC(C(C(=O)O)C)CCC=C | C8H14O3
reactant | potassium acetate | 71.3 mmol, 7.0 g | C(C)(=O)[O-].[K+]
reactant | acetic anhydride | 30 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-(1S,5R)-5-methylbicyclo[3.2.0]hept-3-en-6-one | 810 mg | C[C@@]12C=CC[C@H]2CC1=O | C8H10O
